US07910617B2
(1d) (2R)-2-t-Butoxycarbonylamino-1-n-hexanoyloxy-2-methyl-4-(1-methylpyrrol-2-yl)-3-butene
(1-Methylpyrrol-2-yl)methyltriphenylphosphonium iodide (58.0 g, 120 mmol) obtained in Reference example 1 (1c) was suspended in tetrahydrofuran (300 mL) and a solution of potassium t-butoxide (13.5 g, 120 mmol) in tetrahydrofuran (180 mL) was added thereto under ice-cooling with stirring over 30 minutes, followed by further stirring of the mixture under ice-cooling for 80 minutes. A solution of (2S)-2-t-butoxycarbonylamino-3-n-hexanoyloxy-2-methyl-1-propanol (30.3 g, 101 mmol) obtained in Reference example 1 (1b) in tetrahydrofuran (120 mL) was added to the reaction mixture over 30 minutes and the mixture was stirred under ice-cooling for 30 minutes. A saturated aqueous ammonium chloride solution was added to the reaction mixture to stop the reaction and the temperature of the liquid was returned to room temperature. The mixture was concentrated under reduced pressure and water and ethyl acetate were added thereto to separate it. The thus obtained organic phase was separated, washed with water and a saturated aqueous NaCl solution and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (hexane:ethyl acetate, 9:1) to obtain the title compound (37.0 g, yield: 97%).

reactant | (1-Methylpyrrol-2-yl)methyltriphenylphosphonium iodide | 120 mmol, 58.0 g | [I-].CN1C(=CC=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 120 mmol, 13.5 g | CC(C)([O-])C.[K+]
reactant | (2S)-2-t-butoxycarbonylamino-3-n-hexanoyloxy-2-methyl-1-propanol | 101 mmol, 30.3 g | C(C)(C)(C)OC(=O)N[C@@](CO)(COC(CCCCC)=O)C | C15H29NO5
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 180 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | (2R)-2-t-Butoxycarbonylamino-1-n-hexanoyloxy-2-methyl-4-(1-methylpyrrol-2-yl)-3-butene | 37.0 g, yield: 97% | C(C)(C)(C)OC(=O)N[C@@](COC(CCCCC)=O)(C=CC=1N(C=CC1)C)C | C21H34N2O4
